US06140342
7-Hydroxy-6-methoxy-2-methyl-4-oxo-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester
A solution of 6,7-dimethoxy-2-methyl-4-oxo-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester (10.0 g, 34.1 mmol) and sodium cyanide (8.35 g, 170 mmol) in dimethylsulfoxide (35 mL) was heated at 130° C. for 16 h. Water (100 mL) was added, the mixture was saturated with ammonium chloride, and then extracted with ethyl acetate (4×100 mL). The combined organic extracts were washed with saturated sodium bicarbonate solution (50 mL), brine (25 mL), dried over sodium sulfate, filtered and concentrated in vacuo. Purification by silica gel chromatography using 0-50% ethyl acetate/hexanes as eluent afforded the title compound (5.10 g, 54%).

reactant | 6,7-dimethoxy-2-methyl-4-oxo-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester | 34.1 mmol, 10.0 g | C(C)OC(=O)N1C(CC(C2=CC(=C(C=C12)OC)OC)=O)C | C15H19NO5
reactant | sodium cyanide | 170 mmol, 8.35 g | [C-]#N.[Na+]
reactant | Water | 100 mL | O | H2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylsulfoxide | 35 mL | CS(=O)C | C2H6OS
product | 7-Hydroxy-6-methoxy-2-methyl-4-oxo-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester | 5.10 g, 54% | C(C)OC(=O)N1C(CC(C2=CC(=C(C=C12)O)OC)=O)C | C14H17NO5
